US04572908
4-(2-Chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-2-[2-(3,4-dihydro-4-oxo-pyrimidin-2-ylamino)ethoxymethyl]-1,4-dihydropyridine
2-[2-Aminoethoxymethyl]-3-ethoxycarbonyl-4-(2-chlorophenyl)-5-methoxycarbonyl-6-methyl-1,4-dihydropyridine (0.75 g) and 2-methylthio-3H-pyrimid-4-one (0.5 g) were dissolved in ethanol (5 ml) and heated under reflux for 20 hours. The solvent was evaporated and the residue was partitioned between ethyl acetate and water. The organic layer was separated, washed with 2N hydrochloric acid to remove any unreacted amine, and then with dilute sodium hydroxide solution. It was then washed with water, dried, filtered and evaporated to give a yellow gum. Chromatography on silica "Kieselgel 60H" (Trade Mark) eluting with ethyl acetate gave the title compound, which was recrystallised from ethyl acetate, yield 171 mg, m.p. 148°-150°.

reactant | 2-[2-Aminoethoxymethyl]-3-ethoxycarbonyl-4-(2-chlorophenyl)-5-methoxycarbonyl-6-methyl-1,4-dihydropyridine | 0.75 g | NCCOCC=1NC(=C(C(C1C(=O)OCC)C1=C(C=CC=C1)Cl)C(=O)OC)C | C20H25ClN2O5
reactant | 2-methylthio-3H-pyrimid-4-one | 0.5 g | CSC1=NC=CC(N1)=O | C5H6N2OS
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 4-(2-Chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-2-[2-(3,4-dihydro-4-oxo-pyrimidin-2-ylamino)ethoxymethyl]-1,4-dihydropyridine | ClC1=C(C=CC=C1)C1C(=C(NC(=C1C(=O)OC)C)COCCNC1=NC=CC(N1)=O)C(=O)OCC | C24H27ClN4O6
